US05328911
2-hydroxymethyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)-methyl]-3H-imidazo[4.5-b]pyridine
30 ml of a dichloromethane solution of 410 mg (1 mmol) of 2-methoxy-methyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)-methyl]-3H-imidazo[4.5-b]pyridine was stirred, cooled with ice. During this step, 10 ml (10 mmol) of dichloromethane solution of 1M boron tribromide was added little by little thereto dropwise. The mixture was further agitated at a room temperature for 12 hours. The reaction product mixture was cooled, while stirred. During this step, methanol was added little by little. The solvent was distilled out at a reduced pressure. The residue was mixed with water, neutralized with sodium bicarbonate, adjusted to a weak acidity with acetic acid and decanted to remove the water. The residue was mixed with methanol. The solvent was distilled out at a reduced pressure. The residue was treated with isopropylether for re-crystallization to obtain 330 mg of the intended compound.

reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 2-methoxy-methyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)-methyl]-3H-imidazo[4.5-b]pyridine | 1 mmol, 410 mg | COC1=NC=2C(=NC(=CC2C)C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7O
reactant | dichloromethane | 10 mmol, 10 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
product | 2-hydroxymethyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)-methyl]-3H-imidazo[4.5-b]pyridine | 330 mg | OCC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H19N7O
